US08212041B2
2) Preparation of tert-butyl (6-(3-methylisothiazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate
A pressure vessel was purged with Ar and charged with tert-butyl (6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate (5.00 g, 17.6 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.807 g, 0.881 mmol), 2-dicyclohexylphosphinobiphenyl (0.618 g, 1.76 mmol). DMF (50 mL) was added, immediately followed by 3-methyl-5-(trimethylstannyl)isothiazole (6.46 g, 24.7 mmol). The reaction mixture was stirred at 100° C. for 1 h. Two more portions of tris(dibenzylideneacetone)dipalladium(0) (0.807 g, 0.881 mmol) and 2-dicyclohexylphosphinobiphenyl (0.618 g, 1.76 mmol) were added every hour for the first two hours of stirring. Reaction was then stirred was at 100° C. overnight, cooled to room temperature and concentrated in vacuo. Purification by MPLC (EtOAC/MeOH: 100/0 to 90/10) afforded the title compound (1.80 g, 30% yield). MS m/z=347.1 [M+H]+. Calc'd for C15H18N6O2S: 346.41

reactant | tert-butyl (6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | 17.6 mmol, 5.00 g | ClC=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O | C11H14ClN5O2
reactant | 2-dicyclohexylphosphinobiphenyl | 1.76 mmol, 0.618 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | 3-methyl-5-(trimethylstannyl)isothiazole | 24.7 mmol, 6.46 g | CC1=NSC(=C1)[Sn](C)(C)C
reactant | 2-dicyclohexylphosphinobiphenyl | 1.76 mmol, 0.618 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
catalyst | tris(dibenzylideneacetone)dipalladium | 0.881 mmol, 0.807 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.881 mmol, 0.807 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-butyl (6-(3-methylisothiazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | 1.80 g, 30% yield | CC1=NSC(=C1)C=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O | C15H18N6O2S
